US07452880B2
A solution of 1-BOC-6-(2,4-difluorophenoxy)-3-iodo-1H-pyrazolo[4,3-c]pyridine (0.071 g) and 2-chlorophenylboronic acid in 5 mL of benzene and 1 mL of methanol was stirred at room temperature for 15 minutes. To this solution was added tetrakis(triphenylphosphine)palladium catalyst (52 mg) and 0.3 mL of 1 M sodium carbonate. The resulting mixture was heated to reflux for five hours, cooled, filtered and the organic layer was separated. The organic layer was washed, dried and concentrated. The residue was purified via chromatography using 5% ethyl acetate in hexane as the eluent to afford 45 mg of 3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-pyrazolo[4,3-c]pyridine-1-carboxylic acid, tert-butyl ester (66% yield). Mass. Spec. M+H=458.

reactant | 1-BOC-6-(2,4-difluorophenoxy)-3-iodo-1H-pyrazolo[4,3-c]pyridine | 0.071 g | C(=O)(OC(C)(C)C)N1N=C(C=2C=NC(=CC21)OC2=C(C=C(C=C2)F)F)I | C17H14F2IN3O3
reactant | 2-chlorophenylboronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 1 M, 0.3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 1 mL | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-pyrazolo[4,3-c]pyridine-1-carboxylic acid, tert-butyl ester | 45 mg, 66% yield | ClC1=C(C=CC=C1)C1=NN(C2=C1C=NC(=C2)OC2=C(C=C(C=C2)F)F)C(=O)OC(C)(C)C | C23H18ClF2N3O3
